US05506256
D) (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[(4-methoxyphenylsulfinyl)acetyl]pyrrolidine
(2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(4methoxyphenylsulfinyl)ethyl]pyrrolidine (901 mg) was subjected to DMSO-DCC oxidation as in Example 1-D) to give 652 mg of the title compound (See Table 2).

reactant | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(4methoxyphenylsulfinyl)ethyl]pyrrolidine | 901 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CS(=O)C2=CC=C(C=C2)OC)O)CCC1 | C26H32N2O6S
reactant | DMSO DCC | CS(=O)C.C1CCC(CC1)N=C=NC2CCCCC2
product | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[(4-methoxyphenylsulfinyl)acetyl]pyrrolidine | 652 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CS(=O)C2=CC=C(C=C2)OC)=O)CCC1 | C26H30N2O6S
